US05491153
Preparation of 3-[(3,4-difluorophenacyl)amino]-2-carbmethoxy-6-chloroindole
Suspend the 3-amino-2-carbmethoxy-6-chloroindole (1.15 g, 5.2 mmol) in methylene chloride (80 mL) and add triethylamine (0,497 mL, 5.5 mmol). Addthe 3,4-difluorobenzoyl chloride (0.692 mL, 5.5 mmol) and stir for 30 minutes at room temperature to produce a precipitate. Dilute the reaction with ethyl acetate, rinse with water, dry over magnesium sulfate, filter and concentrate in vacuo to yield the title compound.

reactant | 3-amino-2-carbmethoxy-6-chloroindole | 5.2 mmol, 1.15 g | NC1=C(NC2=CC(=CC=C12)Cl)C(=O)OC | C10H9ClN2O2
reactant | triethylamine | 5.5 mmol, 0,497 mL | C(C)N(CC)CC | C6H15N
reactant | 3,4-difluorobenzoyl chloride | 5.5 mmol, 0.692 mL | FC=1C=C(C(=O)Cl)C=CC1F | C7H3ClF2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | 80 mL | C(Cl)Cl | CH2Cl2
product | 3-[(3,4-difluorophenacyl)amino]-2-carbmethoxy-6-chloroindole | FC=1C=C(C(CNC2=C(NC3=CC(=CC=C23)Cl)C(=O)OC)=O)C=CC1F | C18H13ClF2N2O3
